US04192871
11β-Chloroacetoxy-5α-pregnane-3,20-dione
11β-Hydroxy-5α-pregnane-3,20-dione (2 g) was stirred with chloroacetic anhydride (6.5 g) and calcium carbonate (10 g) is dioxan (200 ml.) containing 4-dimethylaminopyridine (450 mg, added in 2 portions) at 20° for 3 hours. The reaction mixture was filtered and the filtrate was adjusted to pH8 by addition of sodium hydrogen carbonate solution. The crystalline precipitate was collected by filtration, washed, and dried to give title compound (2 g), m.p. 133°-135°, [α]D +113°.

reactant | 11β-Hydroxy-5α-pregnane-3,20-dione | 2 g | O[C@@H]1[C@@H]2[C@]3(CCC(C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)=O)C | C21H32O3
reactant | chloroacetic anhydride | 6.5 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | calcium carbonate | 10 g | C([O-])([O-])=O.[Ca+2]
catalyst | 4-dimethylaminopyridine | 450 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
product | 11β-Chloroacetoxy-5α-pregnane-3,20-dione | 2 g | ClCC(=O)O[C@@H]1[C@@H]2[C@]3(CCC(C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)=O)C | C23H33ClO4
